US08293768B2
Synthesis of ethyl 5-(3-(4-(tert-butoxycarbonylamino)benzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylate
Following the procedure as described in Example 50, making variations as required to replace (2-bromoethoxy)(tert-butyl)dimethylsilane with tert-butyl 4-(chloromethyl)phenylcarbamate to react with ethyl 3-methyl-5-(2-oxoimidazolidin-1-yl)thiophene-2-carboxylate, the title compound was obtained as an off-white solid in 80% yield: 1H NMR (300 MHz, CDCl3) δ 7.34 (d, J=8.2 Hz, 2H), 7.22 (d, J=8.2 Hz, 2H), 6.49 (br s, 1H), 6.14 (s, 1H), 4.41 (s, 2H), 4.27 (q, J=7.1 Hz, 2H), 3.81-3.73 (m, 2H), 3.45-3.37 (m, 2H), 2.49 (s, 3H), 1.51 (s, 9H), 1.34 (t, J=7.1 Hz, 3H); MS (ES+) m/z 482.5 (M+23).

reactant | (2-bromoethoxy)(tert-butyl)dimethylsilane | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
reactant | tert-butyl 4-(chloromethyl)phenylcarbamate | ClCC1=CC=C(C=C1)NC(OC(C)(C)C)=O | C12H16ClNO2
reactant | ethyl 3-methyl-5-(2-oxoimidazolidin-1-yl)thiophene-2-carboxylate | CC1=C(SC(=C1)N1C(NCC1)=O)C(=O)OCC | C11H14N2O3S
product | ethyl 5-(3-(4-(tert-butoxycarbonylamino)benzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylate | 80% yield | C(C)(C)(C)OC(=O)NC1=CC=C(CN2C(N(CC2)C2=CC(=C(S2)C(=O)OCC)C)=O)C=C1 | C23H29N3O5S
